US08334314B2
Synthesis of 7-hydroxychroman-2-one (Intermediate 1)
A solution of hydroxycoumarin (2.0 g, TCI) in anhydrous THF (50 ml) was added with 10% palladium hydroxide/activated carbon (1.0 g, WAKO), and stirred at room temperature for 2 hours under hydrogen atmosphere. The atmosphere was replaced with nitrogen gas, and then the insoluble matters were removed by filtration through Celite. The solvent was evaporated under reduced pressure to obtain the title compound (2.0 g).

reactant | hydroxycoumarin | 2.0 g | OC=1C(OC2=CC=CC=C2C1)=O | C9H6O3
reactant | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | palladium hydroxide | 1.0 g | [OH-].[Pd+2].[OH-]
product | 7-hydroxychroman-2-one | 2.0 g | OC1=CC=C2CCC(OC2=C1)=O | C9H8O3
